US06344476B1
To a saturated solution of methylamine in MeOH (200 mL) in a screw top vessel was added methyl 3-(N-carbobenzyloxyamino)-5-tert-butylthiophene-2-carboxylate (13.6 g, 39.2 mmol) and NaCN (0.98 g, 20 mmol). The vessel was sealed and the reaction mixture was heated to 50° C. for 8 h. The resulting solution was poured into water (500 mL) and extracted with EtOAc. The organic layer was washed with water and a concentrated NaCl solution, dried (Na2SO4), and concentrated under reduced pressure. The crude material was purified by flash chromatography (EtOAc/hexane) affording N-methyl-3-(N-carbobenzyloxyamino)-5-tert-butylthiophene-2-carboxamide (2.76 g, 20%).

reactant | methylamine | CN | CH5N
reactant | methyl 3-(N-carbobenzyloxyamino)-5-tert-butylthiophene-2-carboxylate | 39.2 mmol, 13.6 g | C(=O)(OCC1=CC=CC=C1)NC1=C(SC(=C1)C(C)(C)C)C(=O)OC | C18H21NO4S
reactant | NaCN | 20 mmol, 0.98 g | [C-]#N.[Na+]
reactant | water | 500 mL | O | H2O
solvent | MeOH | 200 mL | CO | CH4O
product | N-methyl-3-(N-carbobenzyloxyamino)-5-tert-butylthiophene-2-carboxamide | 2.76 g, 20% | CNC(=O)C=1SC(=CC1NC(=O)OCC1=CC=CC=C1)C(C)(C)C | C18H22N2O3S
